US09227956B2
Step 1: 7-chloro-1-methyl-1H-pyrrolo[2,3-c]pyridine
To a solution of 7-chloro-1H-pyrrolo[2,3-c]pyridine (3.00 g, 19.7 mmol) in THF (30 mL) cooled to 0° C. was added 60% NaH in mineral oil (0.940 g, 23.6 mmol NaH). The reaction mixture was stirred at 0° C. for 20 minutes. Iodomethane (6.20 g, 43.7 mmol) was added and the reaction mixture was stirred at 0° C. for 1 h and at 20° C. for 2 h. The mixture was poured into water (20 mL) and extracted with EtOAc (3×20 mL). The organic layers were dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography, eluting with a gradient of 17-33% EtOAc/petroleum ether to give the title compound as a yellow solid (2.8 g, 85%).

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine | 19.7 mmol, 3.00 g | ClC=1N=CC=C2C1NC=C2 | C7H5ClN2
reactant | NaH | [H-].[Na+]
reactant | NaH | 23.6 mmol, 0.940 g | [H-].[Na+]
reactant | Iodomethane | 43.7 mmol, 6.20 g | IC | CH3I
reactant | water | 20 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 7-chloro-1-methyl-1H-pyrrolo[2,3-c]pyridine | 2.8 g, 85% | ClC=1N=CC=C2C1N(C=C2)C | C8H7ClN2
